US04587331
A 1.5 portion of D-arabinose hydrazone in 40 ml of ethanol and 20 ml of water was reduced with 200 mg of platinum oxide and hydrogen for 4 hours. The mixture was then filtered and the filtrate evaporated to dryness. The residue was dissolved in 40 ml of methanol and then evaporated to dryness, giving 1.24 g of 1-deoxy-1-hydrazino-D-arabinitol.

reactant | D-arabinose hydrazone | C([C@@H](O)[C@H](O)[C@H](O)CO)=NN | C5H12N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
catalyst | platinum oxide | 200 mg | [Pt]=O
product | 1-deoxy-1-hydrazino-D-arabinitol | 1.24 g | N(N)C[C@@H](O)[C@H](O)[C@H](O)CO | C5H14N2O4
